US07642264B2
3-[6-Methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-benzonitrile
The title compound was prepared trifluoro-methanesulfonic acid 6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl ester (example A.32) (5.00 g, 13 mmol) and commercially available 3-cyanophenylboronic acid (1.67 g, 14.3 mmol) according to the general procedure VI. Obtained as a white solid (3.00 g, 68%). MS (ISP) 339.1 [(M+H)+]; mp 140° C.

reactant | trifluoro-methanesulfonic acid 6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl ester | 13 mmol, 5.00 g | CC1=CC(=CC(=N1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C14H9F6NO3S
reactant | 3-cyanophenylboronic acid | 14.3 mmol, 1.67 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
product | 3-[6-Methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-benzonitrile | CC1=CC(=CC(=N1)C=1C=C(C#N)C=CC1)C1=CC=C(C=C1)C(F)(F)F | C20H13F3N2
